US05998436
Synthesis of 2-t-butylamino-3-fluoro-5-methyl-6-(1,1,3,3-tetramethylbutylamino)pyridine
To 20 ml of tetrahydrofran was dispersed 850 mg of lithium aluminum hydride. The dispersion was water cooled and stirred simultaneously with the dropwise addition of 2.80 g of methyl 6-t-butylamino-5-fluoro-2-(1,1,3,3-tetramethylbut ylamino)nicotinate dissolved in 30 ml of tetrahydrofuran. The reactor was placed in an oil bath of 50° C., and the mixture was stirred for two and half hours. The reactor was then water cooled and 8 ml of ethyl acetate was added dropwise, and the mixture was stirred for 1 hour. 8 ml of ethanol was added dropwise, and the mixture was stirred for 1 hour, then 8 ml of distilled water was added dropwise, and the mixture was stirred overnight. The precipitate was separated by filtration, and the filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel, 40 g; eluent: chloroform:n-hexane, 1:1) to obtain 1.67 g of the title compound as a colorless oily residue.

reactant | lithium aluminum hydride | 850 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-t-butylamino-5-fluoro-2-(1,1,3,3-tetramethylbut ylamino)nicotinate | 2.80 g | C(C)(C)(C)NC1=NC(=C(C(=O)OC)C=C1F)NC(CC(C)(C)C)(C)C | C19H32FN3O2
reactant | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-t-butylamino-3-fluoro-5-methyl-6-(1,1,3,3-tetramethylbutylamino)pyridine | 1.67 g | C(C)(C)(C)NC1=NC(=C(C=C1F)C)NC(CC(C)(C)C)(C)C | C18H32FN3
